US09302984B2
N-(cis-4-Aminocyclohexyl)-2′,4′-difluorobiphenyl-4-sulfonamide (ABD812)
N-(cis-4-(2,4-Dimethoxybenzylamino)cyclohexyl)-2′,4′-difluorobiphenyl-4-sulfonamide (see ABD787a) (52 mg, 0.10 mmol) was stirred in acetonitrile (3 mL) and water (1 mL) and ceric ammonium nitrate (144 mg, 0.26 mmol) was added. The mixture was stirred at 50° C. overnight and then diluted with EtOAc (15 mL) and washed with water (2×5 mL). The washings were extracted with EtOAc (5 mL) and the combined organics were dried over MgSO4. After evaporation of the solvents, the residue was loaded onto a 1 g SCX column and eluted with MeOH and then 20% 2 M NH3/MeOH in DCM. The resulting material was further purified by chromatography (2 g Isolute II cartridge), eluting with 0-10% 2 M NH3/MeOH in DCM to afford the title compound as an off-white powder (9 mg, 25%). 1H NMR (300 MHz, DMSO-d6): δ 0.86-0.98 (2H, m), 1.09-1.26 (2H, m), 1.55-1.68 (4H, m), 2.40 (1H, br s), 2.87 (1H, br s), 4.12 (1H, br s), 7.22 (1H, td, J=8 Hz, 2 Hz), 7.40 (1H, td, J=10 Hz, 2.5 Hz), 7.65 (1H, q, J=7 Hz), 7.71 (2H, d, J=9 Hz) and 7.85 (2H, d, J=9 Hz). LCMS: (MH)+=367.

reactant | N-(cis-4-(2,4-Dimethoxybenzylamino)cyclohexyl)-2′,4′-difluorobiphenyl-4-sulfonamide | 0.10 mmol, 52 mg | COC1=C(CN[C@H]2CC[C@H](CC2)NS(=O)(=O)C2=CC=C(C=C2)C2=C(C=C(C=C2)F)F)C=CC(=C1)OC | C27H30F2N2O4S
reactant | water | 1 mL | O | H2O
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | N-(cis-4-Aminocyclohexyl)-2′,4′-difluorobiphenyl-4-sulfonamide | 9 mg, 25% | N[C@H]1CC[C@H](CC1)NS(=O)(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F | C18H20F2N2O2S
